US04025505
The solution of 1.0 g of N-(4-nitro-o-tolyl)-4-methoxyphthalimide in 70 ml of ethyl acetate is hydrogenated over 0.35 g of platinum oxide at 2.5 atm. and room temperature for 2 hours. It is filtered, the filtrate concentrated and the precipitate formed collected, to yield the N-(4-amino-o-tolyl)-4-methoxyphthalimide melting at 158°-161°.

reactant | N-(4-nitro-o-tolyl)-4-methoxyphthalimide | 1.0 g | [N+](=O)([O-])C1=CC(=C(C=C1)C)N1C(C=2C(C1=O)=CC(=CC2)OC)=O | C16H12N2O5
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum oxide | 0.35 g | [Pt]=O
product | N-(4-amino-o-tolyl)-4-methoxyphthalimide | NC1=CC(=C(C=C1)C)N1C(C=2C(C1=O)=CC(=CC2)OC)=O | C16H14N2O3
